US05194602
Ethyl (20Z)-20-formamido-9α-hydroxy-3-oxopregna-4,17(20)-dien-21-oate
Ethyl isocyanoacetate (1.64 g) in dry tetrahydrofuran (8 ml) was added slowly to a stirred suspension of potassium tert. butoxide (1.71 g) in dry tetrahydrofuran (60 ml) so that the temperature did not rise above 5° C. A solution of 3-methoxy-9α-hydroxyandrosta-3,5-dien-17-one (3.22 g) in dry tetrahydrofuran (15 ml) was added dropwise at 0° C. and the mixture was stirred at room temperature for 4 hours. Most of tetrahydrofuran was removed under reduced pressure and the product was taken up in cold water, adjusted to pH 0.8 with 4N aqueous hydrochloric acid and extracted with chloroform. The combined chloroform extracts were dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the product dried under vacuum. Yield 3.55 g. NMR spectra showed predominantly the formation of the title compound together with small amounts of ethyl (20E)-20-formamido-9α-hydroxy-3-oxopregna-4,17(20)-dien-21-oate and tert. butyl (20Z)-20-formamide-9α-hydroxy- 3-oxopregna-4,17(20)-dien-21-oate. The compounds were isolated through chromatography and separately identified through spectral data.

reactant | Ethyl isocyanoacetate | 1.64 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium tert. butoxide | 1.71 g | CC(C)([O-])C.[K+]
reactant | 3-methoxy-9α-hydroxyandrosta-3,5-dien-17-one | 3.22 g | COC1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@]3([C@]2(CC1)C)O)=O | C20H28O3
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Ethyl (20Z)-20-formamido-9α-hydroxy-3-oxopregna-4,17(20)-dien-21-oate | C(=O)N\C(\C(=O)OCC)=C/1\CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@]3(CC[C@]12C)O)=O | C24H33NO5
